US04797415
5-[4-(2-ethyl-3-benzofuroyl)phenoxymethyl]tetrazole (Compound 43)
To an ice-water cooled suspension of NaH (0.18 g) in dry DMF (5 ml), is added a solution of a 2-ethyl-3-(4-hydroxybenzoyl)benzofuran, 1.00 g, in dry DMF 12 ml dropwise. After stirring for about 15 minutes running, chloroacetonitrile (0.24 ml) is added and heated up to 100° C. for 3 hours. After cooling to room temperature, the reaction mixture is poured over ice-water 100 ml and submitted to extraction by ethyl acetate. The solvent layer is washed by 10% NaOH solution and washed by NaCl solution and then dried by Na2CO3. Removing the solvent from the resulting solution gives a yellowish oily substance, that is 4-(2-ethyl-3-benzofuroyl)phenoxyacetonitrile. The obtained substance, in an amount of 1.05 g is dissolved in 15 ml of THF under an N2 gas stream. To this solution, aluminum chloride anhydride powder, 0.46 g, and then sodium azide, 0.98, are added and heated up to reflux for 24 hours. The reaction mixture is cooled by ice water and 10% HCl is added dropwise to make the solution acidic. After removal of THF, water is added and extracted by ethyl acetate (30 ml×2). The organic layer is washed by NaCl solution and dried over NaCO3. A solid substance obtained after removal of the organic solvent is recrystallized from CH2Cl2.

reactant | NaH | 0.18 g | [H-].[Na+]
reactant | 2-ethyl-3-(4-hydroxybenzoyl)benzofuran | C(C)C=1OC2=C(C1C(C1=CC=C(C=C1)O)=O)C=CC=C2 | C17H14O3
reactant | chloroacetonitrile | 0.24 ml | ClCC#N | C2H2ClN
reactant | 4-(2-ethyl-3-benzofuroyl)phenoxyacetonitrile | C(C)C=1OC2=C(C1C(=O)C1=CC=C(OCC#N)C=C1)C=CC=C2 | C19H15NO3
reactant | sodium azide | [N-]=[N+]=[N-].[Na+]
reactant | HCl | Cl | ClH
solvent | DMF | 5 ml | CN(C)C=O | C3H7NO
solvent | DMF | 12 ml | CN(C)C=O | C3H7NO
solvent | THF | 15 ml | C1CCOC1 | C4H8O
product | 5-[4-(2-ethyl-3-benzofuroyl)phenoxymethyl]tetrazole | C(C)C=1OC2=C(C1C(=O)C1=CC=C(OCC3=NN=NN3)C=C1)C=CC=C2 | C19H16N4O3
